US08664379B2
To a solution of ethyl 3-((2-oxo-6-(4-(trifluoromethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)methyl)benzoate (45 mg, 0.10 mmol) (PT-094) in N,N-dimethylformamide (2.0 mL) was added 1N potassium hydroxide in methanol (10 mL, 10 mmol). The reaction mixture was stirred at room temperature for 17 hours, and then the solvent was removed under reduced pressure. Water (5.0 mL) was added, and the pH was adjusted to 4-5. The mixture was extracted with ethyl acetate (3×20 mL), and the combined organic phase was washed with 30% ammonium chloride (20 mL), brine (20 mL), dried over magnesium sulfate, and the solvent removed under reduced pressure. The residue was subjected to reverse phase HPLC with a gradient of acetonitrile/water (2% to 98%) to afford 3-((2-oxo-6-(4-(trifluoromethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)methyl)benzoic acid (26 mg, 0.06 mmol, 60%) (PT-095). LCMS mz 426.0 M+H), 448.0 (M+Na). 1H NMR (400 MHz; CDCl3) δ 8.06 (bs, 2H); 7.65 (m, 4H); 7.47 (m, 3H); 7.36 (m, 1H); 6.92 (d, J=8.6 Hz, 1H); 5.28 (s, 2H); 3.08 (m, 2H), 2.86 (m, 2H).

reactant | ethyl 3-((2-oxo-6-(4-(trifluoromethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)methyl)benzoate | 0.10 mmol, 45 mg | O=C1N(C2=CC=C(C=C2CC1)C1=CC=C(C=C1)C(F)(F)F)CC=1C=C(C(=O)OCC)C=CC1 | C26H22F3NO3
reactant | potassium hydroxide | 1N | [OH-].[K+]
reactant | methanol | 10 mmol, 10 mL | CO | CH4O
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 3-((2-oxo-6-(4-(trifluoromethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)methyl)benzoic acid | 0.06 mmol, 26 mg, 60% | O=C1N(C2=CC=C(C=C2CC1)C1=CC=C(C=C1)C(F)(F)F)CC=1C=C(C(=O)O)C=CC1 | C24H18F3NO3
